// noise_gen: Adds Gaussian noise (sigma=0.1V) to a DC input voltage
simulator lang=spectre
global 0

ahdl_include "noise_gen.va"

// DC input at 1.0V
Vvin (vin_i 0) vsource type=dc dc=1.0

IDUT (vin_i vout_o) noise_gen sigma=0.1

tran tran stop=500n maxstep=0.5n
save vin_i vout_o
